### PR TITLE
Elementary "conditional probability" ported from HVG's cond_probTheory

### PR DESCRIPTION
**Pull request by binghe**
Hi,

this PR added an elementary definition of "conditional probability" from HVG's `cond_probTheory` (by Liya Liu in 2012). The original work was done in HOL4 K7, based on the old real-valued `probabilityTheory`. I merged this work into HOL's current `real_probabilityTheory` with minor fixes. Then I ported all theorems to (extreal-valued) `probabilityTheory`, reproving each using extreal arithmetics.

Conditional probability [1, p.114], denoted by `p {A | B}` in textbooks, is formalized by `cond_prob p A B` in HOL:

```
   [cond_prob_def]  Definition      
      ⊢ ∀p e1 e2. cond_prob p e1 e2 = prob p (e1 ∩ e2) / prob p e2
```

(With the new definition of `extreal_div`, whenever `cond_prob p e1 e2` is involved, `prob p e2 <> 0` must hold. This is aligned with textbooks.)

With the above definiton, the Total Probability Formula  and the famous Bayes' Rule (specific and general versions) are proved:

```
   [TOTAL_PROB_SIGMA]  Theorem
      ⊢ ∀p A B s.
            prob_space p ∧ A ∈ events p ∧ FINITE s ∧
            (∀x. x ∈ s ⇒ B x ∈ events p ∧ prob p (B x) ≠ 0) ∧
            (∀a b. a ∈ s ∧ b ∈ s ∧ a ≠ b ⇒ DISJOINT (B a) (B b)) ∧
            BIGUNION (IMAGE B s) = p_space p ⇒
            prob p A = ∑ (λi. prob p (B i) * cond_prob p A (B i)) s

   [BAYES_RULE]  Theorem
      ⊢ ∀p A B.
            prob_space p ∧ A ∈ events p ∧ B ∈ events p ∧ prob p A ≠ 0 ∧
            prob p B ≠ 0 ⇒
            cond_prob p B A = cond_prob p A B * prob p B / prob p A
   
   [BAYES_RULE_GENERAL_SIGMA]  Theorem
      ⊢ ∀p A B s k.
            prob_space p ∧ A ∈ events p ∧ prob p A ≠ 0 ∧ FINITE s ∧
            (∀x. x ∈ s ⇒ B x ∈ events p ∧ prob p (B x) ≠ 0) ∧ k ∈ s ∧
            (∀a b. a ∈ s ∧ b ∈ s ∧ a ≠ b ⇒ DISJOINT (B a) (B b)) ∧
            BIGUNION (IMAGE B s) = p_space p ⇒
            cond_prob p (B k) A =
            cond_prob p A (B k) * prob p (B k) /
            ∑ (λi. prob p (B i) * cond_prob p A (B i)) s
```

Note that, there's another measure-theoretic definition of "conditional probability" in `probabilityTheory`, based on conditional expectation:

```
   [conditional_expectation_def]  Definition      
      ⊢ ∀p X s.
            conditional_expectation p X s =
            @f.
                real_random_variable f p ∧
                ∀g.
                    g ∈ s ⇒
                    expectation p (λx. f x * 𝟙 g x) =
                    expectation p (λx. X x * 𝟙 g x)
   
   [conditional_prob_def]  Definition      
      ⊢ ∀p e1 e2.
            conditional_prob p e1 e2 = conditional_expectation p (𝟙 e1) e2
```

The above two definitions were not used anywhere in the rest of `probabilityTheory`, but I think this `conditional_prob` should be equivalent with `cond_prob`, once the full theory of `conditional_expectation` comes. Then `|- conditional_prob = cond_prob` may be proved as a theorem (or not: types are different...)

P. S. This PR can be merged independently with #782. The order is not important.

Regards,

Chun Tian

[1] Feller, W.: An Introduction to Probability Theory and Its Applications, vol 1, 3rd edition. John Wiley & Sons, Inc., New York, N.Y. (2004).

### CODE REVIEW

File: src/probability/util_probScript.sml [hunk 1]
```diff
@@ -1662,6 +1662,18 @@ val tail_countable = store_thm
  >- PROVE_TAC [COUNTABLE_IMAGE_NUM]
  >> RW_TAC std_ss [EXTENSION, IN_IMAGE, GSPECIFICATION]);
 
+Theorem THREE_SETS_INTER :
```
Comment (mn200) [inline src/probability/util_probScript.sml]: This should be proved by `rw[EXTENSION] >> metis_tac[]`

Comment (binghe) [reply src/probability/util_probScript.sml]: Thanks. I'll remove this useless lemma (turning it into a `by`) as it's only used once in `real_probabilityTheory`.

**Comment by binghe** [comment]
> When and if you can be bothered, please push all files through the
> 
> ```
>   unquote --quotefix
> ```
> 
> to replace the backticks with nice Unicode quotation marks. I'll probably do this myself with everything at some point, so don't worry too much about it.

Never know the command `unquote`, thanks for teaching me this.

I personally don't quite like this whole idea, as these Unicode quotation marks make the proof script not pure ASCII files any more. And changing double backquotes to their Unicode version actually breaks the code indents in many scripts that I wrote.    But, anyway, I'm fine if you do it. There are currently more than 95,000 lines of code (4500+ theorems) in `src/probability`, the honor of all unicode changes are yours:)

**Comment by binghe** [comment]
I moved `THREE_SETS_INTER` back to where it's used once (`real_probability`) and turned it to a local lemma (the proof is just `SET_TAC []`).

**Comment by binghe** [comment]
Hi, I'm preparing another PR (convergence concepts of random sequences), once the present one gets merged ...

**Comment by mn200** [comment]
Thanks for your work on this!
